US06921759B2
Step 6: Preparation of 5-bromo-7-[({2-[(dimethylamino)sulfonyl]-4-fluorobenzyl}amino)carbonyl]-1,6-naphthyridin-8-yl 4-methylbenzenesulfonate
Triethylamine (0.65 mL, 4.66 mmol) was added slowly to a suspension of 5-bromo-N-{2-[(dimethylamino)sulfonyl]-4-fluorobenzyl}-8-hydroxy-1,6-naphthyridine-7-carboxamide (1.50 g, 3.10 mmol) in chloroform (15 mL) to give a yellow cloudy solution. p-Toluenesulfonyl chloride (0.71 g, 3.73 mmol) was then added slowly and the mixture was aged at 40° C. for five hours. The mixture was quenched with 10% KHSO4 solution and the layers were separated. The aqueous layer was extracted twice more with CHCl3. The combined organic extracts were washed once with brine, dried over Na2SO4, filtered, and concentrated in vacuo to a crude yellow oil. The oil was dissolved in a minimal amount of CHCl3 and purified on an Isco column (110 g silica) running a 0 to 2.5% MeOH/CHCl3 gradient over 30 minutes. The collected fractions were concentrated in vacuo to afford the desired material as a white solid foam.

reactant | Triethylamine | 4.66 mmol, 0.65 mL | C(C)N(CC)CC | C6H15N
reactant | 5-bromo-N-{2-[(dimethylamino)sulfonyl]-4-fluorobenzyl}-8-hydroxy-1,6-naphthyridine-7-carboxamide | 3.10 mmol, 1.50 g | BrC1=C2C=CC=NC2=C(C(=N1)C(=O)NCC1=C(C=C(C=C1)F)S(=O)(=O)N(C)C)O | C18H16BrFN4O4S
reactant | p-Toluenesulfonyl chloride | 3.73 mmol, 0.71 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
solvent | chloroform | 15 mL | C(Cl)(Cl)Cl | CHCl3
product | 5-bromo-7-[({2-[(dimethylamino)sulfonyl]-4-fluorobenzyl}amino)carbonyl]-1,6-naphthyridin-8-yl 4-methylbenzenesulfonate | CC1=CC=C(C=C1)S(=O)(=O)OC=1C(=NC(=C2C=CC=NC12)Br)C(=O)NCC1=C(C=C(C=C1)F)S(=O)(=O)N(C)C | C25H22BrFN4O6S2
